US08084623B2
To a solution of 2-iodoquinoline (670 mg, 2.6 mmol) in THF (10 mL) at 0° C. was slowly added isopropyl magnesium chloride (2.0 M in THF, 1.6 mL, 3.2 mmol). The reaction mixture was stirred at 0° C. for 30 minutes, then a solution of 4-formyl-4-propyl-piperidine-1-carboxylic acid tert-butyl ester (670 mg, 2.6 mmol) in THF (3 mL) was slowly added. The reaction mixture was stirred at 0° C. for 30 minutes, then warmed to room temperature, quenched with saturated aqueous NH4Cl solution, and extracted with EtOAc. The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (0% to 20% EtOAc in hexanes) to afford 190 mg (19%) of 4-(hydroxy-quinolin-2-yl-methyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil.

reactant | 2-iodoquinoline | 2.6 mmol, 670 mg | IC1=NC2=CC=CC=C2C=C1 | C9H6IN
reactant | isopropyl magnesium chloride | 3.2 mmol, 2.0 M, 1.6 mL | C(C)(C)[Mg]Cl
reactant | 4-formyl-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 2.6 mmol, 670 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C=O | C14H25NO3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(hydroxy-quinolin-2-yl-methyl)-4-propyl-piperidine-1-carboxylic acid tert-butyl ester | 190 mg, 19% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC)C(C1=NC2=CC=CC=C2C=C1)O | C23H32N2O3
